US08431607B2
(S)-3-(4-(4-chlorophenoxy)phenyl)-1-(pyrazin-2-yl)-4-(3-(trifluoromethyl)phenyl)-imidazolidin-2-one
To a solution of (S)-1-(4-(4-chlorophenoxy)phenyl)-5-(3-(trifluoromethyl)phenyl)imidazolidin-2-one (20.0 mg, 0.046 mmol) in DMF (0.5 mL) are added Cs2CO3 (30.1 mg, 0.092 mmol) and chloropyrazine (8.25 μL, 0.092 mmol). The reaction mixture is heated at 100° C. overnight, and additional Cs2CO3 (30.1 mg, 0.092 mmol) and chloropyrazine (8.25 μL, 0.092 mmol) are added. After heating at 100° C. for another 8 h, the reaction mixture is quenched with H2O (5 mL) and extracted with EtOAc (3×3 mL). The combined organic layer is evaporated under vacuo and purified by preparatory LC/MS to provide the title compound; HPLC-MS calculated for C26H18ClF3N4O2 (M+H+) 511.1, found 511.1.

reactant | (S)-1-(4-(4-chlorophenoxy)phenyl)-5-(3-(trifluoromethyl)phenyl)imidazolidin-2-one | 0.046 mmol, 20.0 mg | ClC1=CC=C(OC2=CC=C(C=C2)N2C(NC[C@@H]2C2=CC(=CC=C2)C(F)(F)F)=O)C=C1 | C22H16ClF3N2O2
reactant | Cs2CO3 | 0.092 mmol, 30.1 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | chloropyrazine | 0.092 mmol, 8.25 μL | ClC1=NC=CN=C1 | C4H3ClN2
reactant | Cs2CO3 | 0.092 mmol, 30.1 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | chloropyrazine | 0.092 mmol, 8.25 μL | ClC1=NC=CN=C1 | C4H3ClN2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (S)-3-(4-(4-chlorophenoxy)phenyl)-1-(pyrazin-2-yl)-4-(3-(trifluoromethyl)phenyl)-imidazolidin-2-one | ClC1=CC=C(OC2=CC=C(C=C2)N2C(N(C[C@@H]2C2=CC(=CC=C2)C(F)(F)F)C2=NC=CN=C2)=O)C=C1 | C26H18ClF3N4O2
